US07211572B2
To a solution of 9-benzyloxy-2-(3-phenylpropyl)-7-(thiazol-2-yl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione (27 mg) in acetic acid (1 ml) was added conc. aqueous hydrochloric acid (0.5 ml) and the mixture was stirred at 90° C. for 2 hr. The solvent was evaporated and ethyl acetate was added to the residue. The obtained solid was collected by filtration to give 9-hydroxy-2-(3-phenylpropyl)-7-(thiazol-2-yl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione hydrochloride (25 mg).

reactant | 9-benzyloxy-2-(3-phenylpropyl)-7-(thiazol-2-yl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione | 27 mg | C(C1=CC=CC=C1)OC=1C(C(=CN2C1C(N(CC2)CCCC2=CC=CC=C2)=O)C=2SC=CN2)=O | C27H25N3O3S
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 9-hydroxy-2-(3-phenylpropyl)-7-(thiazol-2-yl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione hydrochloride | 25 mg | Cl.OC=1C(C(=CN2C1C(N(CC2)CCCC2=CC=CC=C2)=O)C=2SC=CN2)=O | InChI=1S/C20H19N3O3S.ClH/c24-17-15(19-21-8-12-27-19)13-23-11-10-22(20(26)16(23)18(17)25)9-4-7-14-5-2-1-3-6-14;/h1-3,5-6,8,12-13,25H,4,7,9-11H2;1H
